US03991087
A solution of bromobenzene (13.18 g., 0.084 mole) in ether (50 ml.) is added to a suspension of Mg (2.04 g., 0.084 mole) in ether (50 ml.) dropwise so as to maintain a gentle reflux. After complete addition of the bromobenzene, the mixture is heated on a steam bath for an additional hour. The reaction mixture is then cooled to 5°-10° C. by means of an ice-water bath, and 1-chloro-4-chloromethoxynonane (19.05 g., 0.084 mole) is added dropwise over 15 minutes. The resulting suspension is stirred for 18 hours at room temperature. The reaction mixture is diluted with ether (100 ml.), cooled to 0°-5° C., and cold water (75 ml.) is added with vigorous stirring while the temperature is kept below 5° C. Let stir a 0°-5° C. for about 15 minutes. The aqueous phase is separated from the ether phase (A), and the aqueous layer is extracted with ether (150 ml., B). Organic solution A is combined with B, washed with H2O (100 ml.), 5% K2CO3 (100 ml.), again with H2O (100 ml.), finally with saturated NaCl solution, and is dried over anhydrous Na2SO4. Removal of the solvent in vacuo yields 1-chloro-4-benzyloxynonane (19.28 g., 0.072 mole, 85.7% yield).

reactant | bromobenzene | 0.084 mole, 13.18 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 1-chloro-4-chloromethoxynonane | 0.084 mole, 19.05 g | ClCCCC(CCCCC)OCCl | C10H20Cl2O
reactant | water | 75 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-chloro-4-benzyloxynonane | 0.072 mole, 19.28 g, 85.7% yield | ClCCCC(CCCCC)OCC1=CC=CC=C1 | C16H25ClO
